US07943748B2
(6) Synthesis of (3R,4S,5S,6R)-3,4,5-Trisbenzyloxy-6-benzyloxymethyl-2-[3-(5-fluorobenzo[b]thiophen-2-ylmethyl)naphthalen-1-yl]tetrahydropyran-2-ol
In a nitrogen stream, an n-butyllithium hexane solution (1.6 M, 0.97 ml, 1.55 mmol) was added dropwise to a solution of 2-(4-bromonaphthalen-2-yl-methyl)-5-fluorobenzo[b]thiophene (520 mg, 1.41 mmol) in THF (15 ml) at −78° C. and the reaction mixture was stirred at the same temperature for 10 minutes. To this solution, a solution of 3,4,5-trisbenzyloxy-6-benzyloxymethyl-tetrahydropyran-2-one (835 mg, 1.55 mmol) in THF (3 ml) was added dropwise. The mixture was stirred at −78° C. for one hour, and a saturated ammonium chloride aqueous solution was added thereto to stop the reaction. The reaction mixture was extracted with ether, and the organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:20)] to obtain the title compound (770 mg, 66%).

reactant | n-butyllithium hexane | 1.55 mmol, 1.6 M, 0.97 ml | CCCCCC.C(CCC)[Li]
reactant | 2-(4-bromonaphthalen-2-yl-methyl)-5-fluorobenzo[b]thiophene | 1.41 mmol, 520 mg | BrC1=CC(=CC2=CC=CC=C12)CC1=CC2=C(S1)C=CC(=C2)F | C19H12BrFS
reactant | 3,4,5-trisbenzyloxy-6-benzyloxymethyl-tetrahydropyran-2-one | 1.55 mmol, 835 mg | C(C1=CC=CC=C1)OC1C(OC(C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)=O | C34H34O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (3R,4S,5S,6R)-3,4,5-Trisbenzyloxy-6-benzyloxymethyl-2-[3-(5-fluorobenzo[b]thiophen-2-ylmethyl)naphthalen-1-yl]tetrahydropyran-2-ol | 770 mg, 66% | C(C1=CC=CC=C1)O[C@H]1C(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)(O)C1=CC(=CC2=CC=CC=C12)CC1=CC2=C(S1)C=CC(=C2)F | C53H47FO6S
